* source 84
C_C1         N00082 N00201  0.5  TC=0,0 
L_L1         N00082 N00152  4  
R_R1         0 N00152  1 TC=0,0 
R_R2         0 N00201  2 TC=0,0 
G_G1         N00201 N00152 N00152 0 2
I_I1         N00082 0 DC 0Adc AC 3Aac 0
           
.PRINT         AC 
+ VM([N00201]) 
+ VP([N00201])    
