* source 78
V_V1         N00136 0 DC 0 AC 100 -30
R_R1         N00298 N00214  20 TC=0,0 
R_R2         0 N00162  50 TC=0,0 
R_R3         0 N00221  40 TC=0,0 
L_L1         N00214 N00221  80  
L_L2         N00166 N00221  60  
V_PRINT1         N00136 N00298 0V
          
.PRINT        AC 
+ IM(V_PRINT1) 
+ IP(V_PRINT1)    
V_PRINT2         N00166 N00162 0V
          
.PRINT        AC 
+ IM(V_PRINT2) 
+ IP(V_PRINT2)    
Kn_K1         L_L1 L_L2     0.5
