* source EX
V_V1         N00217 N00119 DC 0 AC 100 120
V_V2         N00229 N00119 DC 0 AC 100 0
V_V3         N00134 N00119 DC 0 AC 100 -120
R_R1         N00134 0  40 TC=0,0 
L_L2         N00217 0  10m  
C_C1         0 N00229  0.2m  TC=0,0 
           
.PRINT         AC 
+ VM([N00134]) 
+ VP([N00134])    
           
.PRINT         AC 
+ VM([N00217]) 
+ VP([N00217])    
           
.PRINT         AC 
+ VM([N00229]) 
+ VP([N00229])    
