* source EX2
V_V1         N00581 0 120
R_R1         N00565 0  30 TC=0,0 
R_R2         0 N00599  30 TC=0,0 
R_R3         N00565 N00581  10 TC=0,0 
R_R4         N00581 N00599  10 TC=0,0 
R_R5         N00565 N00599  30 TC=0,0 
