* source EX1
I_I1         0 N00117 DC 5  
R_R1         N00121 N00117  6 TC=0,0 
R_R2         N00121 0  4 TC=0,0 
R_R3         0 N00121  6 TC=0,0 
