* source EX3
V_V1         N00076 0 6
R_R1         N00076 N00092  3k TC=0,0 
X_F1    N00092 0 N00251 0 SCHEMATIC1_F1 
R_R2         0 N00251  2k TC=0,0 

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 20
VF_F1         1 2 0V
.ends SCHEMATIC1_F1
