* source EX2
R_R1         N00313 N00916  3 TC=0,0 
R_R3         0 N00313  6 TC=0,0 
R_R2         N00313 N002750  4 TC=0,0 
V_V1         N00916 0 108
L_L1         0 N002750  2 IC=7.714 
