* source EX6
V_V1         N00062 0 24
R_R1         N00062 N00106  6 TC=0,0 
L_L1         N00106 N00139  2 IC=0 
R_R2         0 N00139  3 TC=0,0 
C_C1         0 N00139  0.4 IC=0 TC=0,0 
