* source XBB
L_L2         0 N14435  2 IC=7.714 
R_R1         N14417 N14426  3  
R_R2         N14426 N14435  4  
R_R3         0 N14426  6  
V_V1         N14417 0 108
