* source XIAOBAIHW6
C_C1         N00150 N00141  0.4 IC=0 TC=0,0 
L_L1         N00137 N00141  2H IC=0 
R_R1         N00133 N00137  6 TC=0,0 
R_R2         0 N00141  3 TC=0,0 
V_V1         N00133 N00150 24Vdc
