* source EX6
V_V1         N00309 0  
+PULSE -1 1 0 0 0 0.05m 0.1m
R_R1         N00497 N00323  20000 TC=0,0 
C_C1         0 N00323  820p  TC=0,0 
L_L1         N00309 N00497  0.001  
