* source INVERTING
V_V3         0 N00937 1000
V_V2         N00903 0 1000
X_U1         0 N00811 N00903 N00937 N00885 uA741
R_R2         N00811 N00885  100 TC=0,0 
R_R1         N00835 N00811  50 TC=0,0 
V_V1         N00835 0  
+PULSE -1 1 0 1m 1m 1m 6m
