* source NONINVERTING
V_V1         N00286 0  
+PULSE -1 1 0 1m 1m 1m 6m
X_U1         N00286 N00290 N00438 N00456 N00393 uA741
R_R1         0 N00290  50 TC=0,0 
R_R2         N00290 N00393  100 TC=0,0 
V_V2         N00438 0 1000
V_V3         0 N00456 1000
